US06759554B2
N-(4-Methylphenyl)benzamide
An oven-dried resealable Schlenk tube was charged with CuI (20 mg, 0.105 mmol, 5.1 mol %), benzamide (250 mg, 2.06 mmol), K2CO3 (600 mg, 4.34 mmol), evacuated and backfilled with argon. trans-1,2-Cyclohexanediamine (26 μL, 0.217 mmol, 10.5 mol %) and 4-chlorotoluene (1.0 mL, 8.44 mmol) were added under argon. The Schlenk tube was sealed and the reaction mixture was stirred magnetically at 140° C. for 46 h. The resulting black suspension was cooled to room temperature and filtered through a 0.5×1 cm pad of silica gel eluting with 10 mL of ethyl acetate. The filtrate was concentrated and the residue was purified by flash chromatography on silica gel (2×20 cm; hexane-ethyl acetate 2:1; 15 mL fractions). Fractions 5-15 were concentrated, the solid residue was suspended in 10 mL of hexane and filtered to provide 413 mg (95% yield) of the product as white crystals. The 1H NMR spectrum was in accord with that reported by Erdik et al. Erdik, E.; Daskapan, T. J. Chem. Soc., Perkin Trans. 1 1999, 3139.

reactant | benzamide | 2.06 mmol, 250 mg | C(C1=CC=CC=C1)(=O)N | C7H7NO
reactant | K2CO3 | 4.34 mmol, 600 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | trans-1,2-Cyclohexanediamine | 0.217 mmol, 26 μL | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
reactant | 4-chlorotoluene | 8.44 mmol, 1.0 mL | ClC1=CC=C(C=C1)C | C7H7Cl
catalyst | CuI | 0.105 mmol, 20 mg | [Cu]I
product | N-(4-Methylphenyl)benzamide | 413 mg, 95% yield | CC1=CC=C(C=C1)NC(C1=CC=CC=C1)=O | C14H13NO
